US07268150B2
A suspension of 1.4 g of (2S,4S)-4-fluoropyrrolidine-2-carboxamide monohydrochloride prepared according to the similar method as that described in a patent reference (International Publication WO02/38451 pamphlet), and 3.0 ml of N,N-diisopropylethylamine in 10 ml of chloroform was added dropwise to a solution of 0.73 ml of chloroacetyl chloride in 14 ml of chloroform under cooling with an ice-water bath, and the reaction mixture was stirred for 30 minutes under cooling with an ice-water bath. Then, the reaction mixture was concentrated under reduced pressure. To a solution of the resulting residue in 14 ml of chloroform, 2.4 ml of trifluoroacetic anhydride was added dropwise under cooling with an ice-water bath. Then, the reaction mixture was allowed to room temperature, and stirred for 1 hour. This was concentrated under reduced pressure, and 0.1 M hydrochloric acid was added to the resulting residue, and this was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The drying agent was removed, and the solvent was removed under reduced pressure. The resulting residue was purified with silica gel column chromatography (eluent: chloroform to chloroform/methanol=30/1) to obtain 0.84 g of (2S,4S)-1-(chloroacetyl)-4-fluoropyrrolidine-2-carbonitrile.

reactant | (2S,4S)-4-fluoropyrrolidine-2-carboxamide monohydrochloride | 1.4 g | Cl.F[C@H]1C[C@H](NC1)C(=O)N
reactant | N,N-diisopropylethylamine | 3.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloroacetyl chloride | 0.73 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S,4S)-1-(chloroacetyl)-4-fluoropyrrolidine-2-carbonitrile | 0.84 g | ClCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8ClFN2O
